US06458780B1
Tri-n-butylstannyl chloride (2.97 ml) and 16.0 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added dropwise in that order to a solution of 2.37 g of 7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazole in 80 ml of THF in an argon atmosphere at −73° C. The mixture was stirred at the same temperature for 30 min. An ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to 2:1). Of two main components, the fraction, which had been eluted earlier, was collected to give 484 mg of 7-t-butyldimethylsilyloxyacetyl-3-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole.

reactant | Tri-n-butylstannyl chloride | 2.97 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazole | 2.37 g | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=CN2C1SC=C2 | C13H20N2O2SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 7-t-butyldimethylsilyloxyacetyl-3-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole | 484 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=CN2C1SC=C2[Sn](CCCC)(CCCC)CCCC | InChI=1S/C13H19N2O2SSi.3C4H9.Sn/c1-13(2,3)19(4,5)17-8-10(16)11-12-15(9-14-11)6-7-18-12;3*1-3-4-2;/h7,9H,8H2,1-5H3;3*1,3-4H2,2H3;
